US09056859B2
To a flask containing a stir bar was added 5-bromo-2-benzofuran-1(3H)-one (12.0 g, 56.3 mmol) and NBS (15 g, 84 mmol). Triflic acid (50 mL) was then added at 0° C. and the resulting mixture was allowed to warm to rt and stir for 2 days. TLC analysis of the reaction mixture showed complete reaction. The reaction mixture was poured into ice and the organic layer was separated, washed with brine, water, dried over Na2SO4, filtered, and concentrated to dryness. The residue was then absorbed into silica gel and subjected for purification over a silica MPLC column to give 4,5-dibromo-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 291 [M+1]+.

reactant | 5-bromo-2-benzofuran-1(3H)-one | 56.3 mmol, 12.0 g | BrC1=CC2=C(C(OC2)=O)C=C1 | C8H5BrO2
reactant | NBS | 84 mmol, 15 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | Triflic acid | 50 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
product | 4,5-dibromo-2-benzofuran-1(3H)-one | BrC1=C(C=CC=2C(OCC21)=O)Br | C8H4Br2O2
